US08609675B2
Step B—Synthesis of ethyl 1-methyl-4-oxocyclohexanecarboxylate (Int-6b)
In a 50 mL round-bottom flask was mixed with ethyl 8-methyl-1,4-dioxaspiro[4.5]decane-8-carboxylate (Int-6a, 1.99 g, 8.72 mmol), EtOH (10 mL), H2O (5 mL), and 4N HCl in 1,4-dioxane (5 mL). The resulting solution was stirred at room temperature for 64 hours. At this time, the solvent was removed in vacuo and the residue was taken up in DCM. The suspension was washed with saturated NaHCO3(aq) and the organic layer was dried over Na2SO4. The resulting product was taken on without further purification. Yield=1.00 g.

reactant | ethyl 8-methyl-1,4-dioxaspiro[4.5]decane-8-carboxylate | 8.72 mmol, 1.99 g | CC1(CCC2(OCCO2)CC1)C(=O)OCC | C12H20O4
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | H2O | 5 mL | O | H2O
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | ethyl 1-methyl-4-oxocyclohexanecarboxylate | CC1(CCC(CC1)=O)C(=O)OCC | C10H16O3
